US04076821
A mixture of 10 g of 4,4-bis(p-fluorophenyl)cyclohexanone, 6.6 g of 1-(4-piperidyl)-2-benzimidazolinone, 0.2 g of p-toluenesulfonic acid and 80 ml of xylene is stirred under reflux for 34 hours, the water formed being removed. The xylene is then removed under reduced pressure, and to the residue is added 200 ml of methanol and 10 ml of water. To the resulting mixture is added dropwise 15 g of sodium borohydride at about 20° C with cooling. After the addition is complete, the mixture is stirred under reflux for 3 hours. The reaction mixture is concentrated completely under reduced pressure, water is added to the residue, and the aqueous mixture is extracted with chloroform. The extract is washed with water and dried over sodium sulfate, and the solvent is removed. The residual viscous oil is purified by column chromatography using methylene chloride and then a mixture of methylene chloride and methanol (9:1) as an eluent. Thus is obtained 1-[1-(4,4-bis(p-fluorophenyl)cyclohexyl)-4-piperidyl]- 2-benzimidazolinone as colorless crystals, melting at 235°-238° C.

reactant | 4,4-bis(p-fluorophenyl)cyclohexanone | 10 g | FC1=CC=C(C=C1)C1(CCC(CC1)=O)C1=CC=C(C=C1)F | C18H16F2O
reactant | 1-(4-piperidyl)-2-benzimidazolinone | 6.6 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 1-[1-(4,4-bis(p-fluorophenyl)cyclohexyl)-4-piperidyl]- 2-benzimidazolinone | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)F | C30H31F2N3O
